US08372867B2
A solution of 3-[3-bromo-4-(bromomethyl)phenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole (1.8 g), 2-aminomethylpyridine (0.38 g) and potassium carbonate (0.97 g) in acetonitrile (20 mL) was heated to reflux for 3 hours. After the reaction solution was diluted with t-butylmethylether, the solution was washed with water and saturated brine. The organic layer was dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the residue was purified by silica gel chromatography to yield 1-{2-bromo-4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]phenyl}-N-(pyridin-2-ylmethyl)methanamine (1.0 g).

reactant | 3-[3-bromo-4-(bromomethyl)phenyl]-5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazole | 1.8 g | BrC=1C=C(C=CC1CBr)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl | C17H10Br2Cl2F3NO
reactant | 2-aminomethylpyridine | 0.38 g | NCC1=NC=CC=C1 | C6H8N2
reactant | potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | t-butylmethylether | C(C)(C)(C)OC | C5H12O
product | 1-{2-bromo-4-[5-(3,5-dichlorophenyl)-5-(trifluoromethyl)-4,5-dihydroisoxazol-3-yl]phenyl}-N-(pyridin-2-ylmethyl)methanamine | 1.0 g | BrC1=C(C=CC(=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)CNCC1=NC=CC=C1 | C23H17BrCl2F3N3O
